* TR-1um RING_OSC — KLayout 抽出 (lvs_pnr.py)

* cell RING_OSC
.SUBCKT RING_OSC
* net 1 ENB
* net 2 VDD
* net 3 OUT
* net 4 OUTD
* net 5 VSS
* cell instance $1 m0 *1 0,4.8
X$1 5 4 1 2 INVALLD
* cell instance $2 r0 *1 0,0
X$2 5 3 1 2 INVALL
.ENDS RING_OSC

* cell INVALL
* pin VSS
* pin 
* pin 
* pin 
.SUBCKT INVALL 3 4 5 6
* net 3 VSS
* cell instance $1 r0 *1 0,0
X$1 4 1 3 5 2 6 INV48
* cell instance $2 r180 *1 1620,114
X$2 3 1 2 6 INV49
.ENDS INVALL

* cell INVALLD
* pin VSS
* pin 
* pin 
* pin 
.SUBCKT INVALLD 3 4 5 6
* net 3 VSS
* cell instance $1 r180 *1 1620,114
X$1 3 1 2 6 INV49D
* cell instance $2 r0 *1 0,0
X$2 4 1 3 5 2 6 INV48D
.ENDS INVALLD

* cell INV49
* pin VSS
* pin 
* pin 
* pin 
.SUBCKT INV49 1 50 51 52
* net 1 VSS
* cell instance $1 r0 *1 1598.4,0
X$1 52 1 FILL2
* cell instance $2 r0 *1 10.8,0
X$2 2 1 50 52 INV3
* cell instance $3 r0 *1 43.2,0
X$3 49 1 2 52 INV3
* cell instance $4 r0 *1 75.6,0
X$4 48 1 49 52 INV3
* cell instance $5 r0 *1 108,0
X$5 47 1 48 52 INV3
* cell instance $6 r0 *1 140.4,0
X$6 46 1 47 52 INV3
* cell instance $7 r0 *1 172.8,0
X$7 45 1 46 52 INV3
* cell instance $8 r0 *1 205.2,0
X$8 44 1 45 52 INV3
* cell instance $9 r0 *1 237.6,0
X$9 43 1 44 52 INV3
* cell instance $10 r0 *1 270,0
X$10 42 1 43 52 INV3
* cell instance $11 r0 *1 302.4,0
X$11 41 1 42 52 INV3
* cell instance $12 r0 *1 334.8,0
X$12 40 1 41 52 INV3
* cell instance $13 r0 *1 367.2,0
X$13 39 1 40 52 INV3
* cell instance $14 r0 *1 399.6,0
X$14 38 1 39 52 INV3
* cell instance $15 r0 *1 432,0
X$15 37 1 38 52 INV3
* cell instance $16 r0 *1 464.4,0
X$16 36 1 37 52 INV3
* cell instance $17 r0 *1 496.8,0
X$17 35 1 36 52 INV3
* cell instance $18 r0 *1 529.2,0
X$18 34 1 35 52 INV3
* cell instance $19 r0 *1 561.6,0
X$19 33 1 34 52 INV3
* cell instance $20 r0 *1 594,0
X$20 32 1 33 52 INV3
* cell instance $21 r0 *1 626.4,0
X$21 31 1 32 52 INV3
* cell instance $22 r0 *1 658.8,0
X$22 30 1 31 52 INV3
* cell instance $23 r0 *1 691.2,0
X$23 29 1 30 52 INV3
* cell instance $24 r0 *1 723.6,0
X$24 28 1 29 52 INV3
* cell instance $25 r0 *1 756,0
X$25 27 1 28 52 INV3
* cell instance $26 r0 *1 788.4,0
X$26 26 1 27 52 INV3
* cell instance $27 r0 *1 820.8,0
X$27 25 1 26 52 INV3
* cell instance $28 r0 *1 853.2,0
X$28 24 1 25 52 INV3
* cell instance $29 r0 *1 885.6,0
X$29 23 1 24 52 INV3
* cell instance $30 r0 *1 918,0
X$30 22 1 23 52 INV3
* cell instance $31 r0 *1 950.4,0
X$31 21 1 22 52 INV3
* cell instance $32 r0 *1 982.8,0
X$32 20 1 21 52 INV3
* cell instance $33 r0 *1 1015.2,0
X$33 19 1 20 52 INV3
* cell instance $34 r0 *1 1047.6,0
X$34 18 1 19 52 INV3
* cell instance $35 r0 *1 1080,0
X$35 17 1 18 52 INV3
* cell instance $36 r0 *1 1112.4,0
X$36 16 1 17 52 INV3
* cell instance $37 r0 *1 1144.8,0
X$37 15 1 16 52 INV3
* cell instance $38 r0 *1 1177.2,0
X$38 14 1 15 52 INV3
* cell instance $39 r0 *1 1209.6,0
X$39 13 1 14 52 INV3
* cell instance $40 r0 *1 1242,0
X$40 12 1 13 52 INV3
* cell instance $41 r0 *1 1274.4,0
X$41 11 1 12 52 INV3
* cell instance $42 r0 *1 1306.8,0
X$42 10 1 11 52 INV3
* cell instance $43 r0 *1 1339.2,0
X$43 9 1 10 52 INV3
* cell instance $44 r0 *1 1371.6,0
X$44 8 1 9 52 INV3
* cell instance $45 r0 *1 1404,0
X$45 7 1 8 52 INV3
* cell instance $46 r0 *1 1436.4,0
X$46 6 1 7 52 INV3
* cell instance $47 r0 *1 1468.8,0
X$47 5 1 6 52 INV3
* cell instance $48 r0 *1 1501.2,0
X$48 4 1 5 52 INV3
* cell instance $49 r0 *1 1533.6,0
X$49 3 1 4 52 INV3
* cell instance $50 r0 *1 1566,0
X$50 51 1 3 52 INV3
* cell instance $51 m90 *1 10.8,0
X$51 52 1 TAP2
* cell instance $52 m90 *1 1620,0
X$52 52 1 TAP2
.ENDS INV49

* cell INV48
* pin 
* pin 
* pin VSS
* pin 
* pin 
* pin 
.SUBCKT INV48 1 3 4 5 50 52
* net 4 VSS
* cell instance $1 r0 *1 1533.6,0
X$1 52 4 FILL2
* cell instance $2 r0 *1 1544.4,0
X$2 52 4 FILL2
* cell instance $3 r0 *1 1555.2,0
X$3 52 4 FILL2
* cell instance $4 r0 *1 1566,0
X$4 52 4 FILL2
* cell instance $5 r0 *1 1576.8,0
X$5 52 4 FILL2
* cell instance $6 r0 *1 1587.6,0
X$6 52 4 FILL2
* cell instance $7 r0 *1 10.8,0
X$7 52 4 FILL2
* cell instance $8 r0 *1 1598.4,0
X$8 3 52 1 4 INV_X1
* cell instance $9 r0 *1 21.6,0
X$9 49 4 50 52 INV3
* cell instance $10 r0 *1 54,0
X$10 48 4 49 52 INV3
* cell instance $11 r0 *1 86.4,0
X$11 47 4 48 52 INV3
* cell instance $12 r0 *1 118.8,0
X$12 46 4 47 52 INV3
* cell instance $13 r0 *1 151.2,0
X$13 45 4 46 52 INV3
* cell instance $14 r0 *1 183.6,0
X$14 44 4 45 52 INV3
* cell instance $15 r0 *1 216,0
X$15 43 4 44 52 INV3
* cell instance $16 r0 *1 248.4,0
X$16 42 4 43 52 INV3
* cell instance $17 r0 *1 280.8,0
X$17 41 4 42 52 INV3
* cell instance $18 r0 *1 313.2,0
X$18 40 4 41 52 INV3
* cell instance $19 r0 *1 345.6,0
X$19 39 4 40 52 INV3
* cell instance $20 r0 *1 378,0
X$20 38 4 39 52 INV3
* cell instance $21 r0 *1 410.4,0
X$21 37 4 38 52 INV3
* cell instance $22 r0 *1 442.8,0
X$22 36 4 37 52 INV3
* cell instance $23 r0 *1 475.2,0
X$23 35 4 36 52 INV3
* cell instance $24 r0 *1 507.6,0
X$24 34 4 35 52 INV3
* cell instance $25 r0 *1 540,0
X$25 33 4 34 52 INV3
* cell instance $26 r0 *1 572.4,0
X$26 32 4 33 52 INV3
* cell instance $27 r0 *1 604.8,0
X$27 31 4 32 52 INV3
* cell instance $28 r0 *1 637.2,0
X$28 30 4 31 52 INV3
* cell instance $29 r0 *1 669.6,0
X$29 29 4 30 52 INV3
* cell instance $30 r0 *1 702,0
X$30 28 4 29 52 INV3
* cell instance $31 r0 *1 734.4,0
X$31 27 4 28 52 INV3
* cell instance $32 r0 *1 766.8,0
X$32 26 4 27 52 INV3
* cell instance $33 r0 *1 799.2,0
X$33 25 4 26 52 INV3
* cell instance $34 r0 *1 831.6,0
X$34 24 4 25 52 INV3
* cell instance $35 r0 *1 864,0
X$35 23 4 24 52 INV3
* cell instance $36 r0 *1 896.4,0
X$36 22 4 23 52 INV3
* cell instance $37 r0 *1 928.8,0
X$37 21 4 22 52 INV3
* cell instance $38 r0 *1 961.2,0
X$38 20 4 21 52 INV3
* cell instance $39 r0 *1 993.6,0
X$39 19 4 20 52 INV3
* cell instance $40 r0 *1 1026,0
X$40 18 4 19 52 INV3
* cell instance $41 r0 *1 1058.4,0
X$41 17 4 18 52 INV3
* cell instance $42 r0 *1 1090.8,0
X$42 16 4 17 52 INV3
* cell instance $43 r0 *1 1123.2,0
X$43 15 4 16 52 INV3
* cell instance $44 r0 *1 1155.6,0
X$44 14 4 15 52 INV3
* cell instance $45 r0 *1 1188,0
X$45 13 4 14 52 INV3
* cell instance $46 r0 *1 1220.4,0
X$46 12 4 13 52 INV3
* cell instance $47 r0 *1 1252.8,0
X$47 11 4 12 52 INV3
* cell instance $48 r0 *1 1285.2,0
X$48 10 4 11 52 INV3
* cell instance $49 r0 *1 1317.6,0
X$49 9 4 10 52 INV3
* cell instance $50 r0 *1 1350,0
X$50 8 4 9 52 INV3
* cell instance $51 r0 *1 1382.4,0
X$51 7 4 8 52 INV3
* cell instance $52 r0 *1 1414.8,0
X$52 6 4 7 52 INV3
* cell instance $53 r0 *1 1447.2,0
X$53 2 4 6 52 INV3
* cell instance $54 r0 *1 1479.6,0
X$54 51 4 2 52 INV3
* cell instance $55 r0 *1 0,0
X$55 52 4 TAP2
* cell instance $56 r0 *1 1609.2,0
X$56 52 4 TAP2
* cell instance $57 r0 *1 1512,0
X$57 51 5 52 3 4 AND2_X1
.ENDS INV48

* cell INV48D
* pin 
* pin 
* pin VSS
* pin 
* pin 
* pin 
.SUBCKT INV48D 1 3 4 5 49 51
* net 4 VSS
* cell instance $1 r0 *1 1533.6,0
X$1 51 4 FILL2
* cell instance $2 r0 *1 1544.4,0
X$2 51 4 FILL2
* cell instance $3 r0 *1 1555.2,0
X$3 51 4 FILL2
* cell instance $4 r0 *1 1566,0
X$4 51 4 FILL2
* cell instance $5 r0 *1 1576.8,0
X$5 51 4 FILL2
* cell instance $6 r0 *1 1587.6,0
X$6 51 4 FILL2
* cell instance $7 r0 *1 10.8,0
X$7 51 4 FILL2
* cell instance $8 r0 *1 1598.4,0
X$8 3 51 1 4 INV_X1
* cell instance $9 r0 *1 21.6,0
X$9 49 50 51 4 INV3D
* cell instance $10 r0 *1 54,0
X$10 50 48 51 4 INV3D
* cell instance $11 r0 *1 86.4,0
X$11 48 47 51 4 INV3D
* cell instance $12 r0 *1 118.8,0
X$12 47 46 51 4 INV3D
* cell instance $13 r0 *1 151.2,0
X$13 46 45 51 4 INV3D
* cell instance $14 r0 *1 183.6,0
X$14 45 44 51 4 INV3D
* cell instance $15 r0 *1 216,0
X$15 44 43 51 4 INV3D
* cell instance $16 r0 *1 248.4,0
X$16 43 42 51 4 INV3D
* cell instance $17 r0 *1 280.8,0
X$17 42 41 51 4 INV3D
* cell instance $18 r0 *1 313.2,0
X$18 41 40 51 4 INV3D
* cell instance $19 r0 *1 345.6,0
X$19 40 39 51 4 INV3D
* cell instance $20 r0 *1 378,0
X$20 39 38 51 4 INV3D
* cell instance $21 r0 *1 410.4,0
X$21 38 37 51 4 INV3D
* cell instance $22 r0 *1 442.8,0
X$22 37 36 51 4 INV3D
* cell instance $23 r0 *1 475.2,0
X$23 36 35 51 4 INV3D
* cell instance $24 r0 *1 507.6,0
X$24 35 34 51 4 INV3D
* cell instance $25 r0 *1 540,0
X$25 34 33 51 4 INV3D
* cell instance $26 r0 *1 572.4,0
X$26 33 32 51 4 INV3D
* cell instance $27 r0 *1 604.8,0
X$27 32 31 51 4 INV3D
* cell instance $28 r0 *1 637.2,0
X$28 31 30 51 4 INV3D
* cell instance $29 r0 *1 669.6,0
X$29 30 29 51 4 INV3D
* cell instance $30 r0 *1 702,0
X$30 29 28 51 4 INV3D
* cell instance $31 r0 *1 734.4,0
X$31 28 27 51 4 INV3D
* cell instance $32 r0 *1 766.8,0
X$32 27 26 51 4 INV3D
* cell instance $33 r0 *1 799.2,0
X$33 26 25 51 4 INV3D
* cell instance $34 r0 *1 831.6,0
X$34 25 24 51 4 INV3D
* cell instance $35 r0 *1 864,0
X$35 24 23 51 4 INV3D
* cell instance $36 r0 *1 896.4,0
X$36 23 22 51 4 INV3D
* cell instance $37 r0 *1 928.8,0
X$37 22 21 51 4 INV3D
* cell instance $38 r0 *1 961.2,0
X$38 21 20 51 4 INV3D
* cell instance $39 r0 *1 993.6,0
X$39 20 19 51 4 INV3D
* cell instance $40 r0 *1 1026,0
X$40 19 18 51 4 INV3D
* cell instance $41 r0 *1 1058.4,0
X$41 18 17 51 4 INV3D
* cell instance $42 r0 *1 1090.8,0
X$42 17 16 51 4 INV3D
* cell instance $43 r0 *1 1123.2,0
X$43 16 15 51 4 INV3D
* cell instance $44 r0 *1 1155.6,0
X$44 15 14 51 4 INV3D
* cell instance $45 r0 *1 1188,0
X$45 14 13 51 4 INV3D
* cell instance $46 r0 *1 1220.4,0
X$46 13 12 51 4 INV3D
* cell instance $47 r0 *1 1252.8,0
X$47 12 11 51 4 INV3D
* cell instance $48 r0 *1 1285.2,0
X$48 11 10 51 4 INV3D
* cell instance $49 r0 *1 1317.6,0
X$49 10 9 51 4 INV3D
* cell instance $50 r0 *1 1350,0
X$50 9 8 51 4 INV3D
* cell instance $51 r0 *1 1382.4,0
X$51 8 7 51 4 INV3D
* cell instance $52 r0 *1 1414.8,0
X$52 7 6 51 4 INV3D
* cell instance $53 r0 *1 1447.2,0
X$53 6 2 51 4 INV3D
* cell instance $54 r0 *1 1479.6,0
X$54 2 52 51 4 INV3D
* cell instance $55 r0 *1 0,0
X$55 51 4 TAP2
* cell instance $56 r0 *1 1609.2,0
X$56 51 4 TAP2
* cell instance $57 r0 *1 1512,0
X$57 52 5 51 3 4 AND2_X1
.ENDS INV48D

* cell INV49D
* pin VSS
* pin 
* pin 
* pin 
.SUBCKT INV49D 1 50 51 52
* net 1 VSS
* cell instance $1 r0 *1 1598.4,0
X$1 52 1 FILL2
* cell instance $2 r0 *1 10.8,0
X$2 50 49 52 1 INV3D
* cell instance $3 r0 *1 43.2,0
X$3 49 48 52 1 INV3D
* cell instance $4 r0 *1 75.6,0
X$4 48 47 52 1 INV3D
* cell instance $5 r0 *1 108,0
X$5 47 46 52 1 INV3D
* cell instance $6 r0 *1 140.4,0
X$6 46 45 52 1 INV3D
* cell instance $7 r0 *1 172.8,0
X$7 45 44 52 1 INV3D
* cell instance $8 r0 *1 205.2,0
X$8 44 43 52 1 INV3D
* cell instance $9 r0 *1 237.6,0
X$9 43 42 52 1 INV3D
* cell instance $10 r0 *1 270,0
X$10 42 41 52 1 INV3D
* cell instance $11 r0 *1 302.4,0
X$11 41 40 52 1 INV3D
* cell instance $12 r0 *1 334.8,0
X$12 40 39 52 1 INV3D
* cell instance $13 r0 *1 367.2,0
X$13 39 38 52 1 INV3D
* cell instance $14 r0 *1 399.6,0
X$14 38 37 52 1 INV3D
* cell instance $15 r0 *1 432,0
X$15 37 36 52 1 INV3D
* cell instance $16 r0 *1 464.4,0
X$16 36 35 52 1 INV3D
* cell instance $17 r0 *1 496.8,0
X$17 35 34 52 1 INV3D
* cell instance $18 r0 *1 529.2,0
X$18 34 33 52 1 INV3D
* cell instance $19 r0 *1 561.6,0
X$19 33 32 52 1 INV3D
* cell instance $20 r0 *1 594,0
X$20 32 31 52 1 INV3D
* cell instance $21 r0 *1 626.4,0
X$21 31 30 52 1 INV3D
* cell instance $22 r0 *1 658.8,0
X$22 30 29 52 1 INV3D
* cell instance $23 r0 *1 691.2,0
X$23 29 28 52 1 INV3D
* cell instance $24 r0 *1 723.6,0
X$24 28 27 52 1 INV3D
* cell instance $25 r0 *1 756,0
X$25 27 26 52 1 INV3D
* cell instance $26 r0 *1 788.4,0
X$26 26 25 52 1 INV3D
* cell instance $27 r0 *1 820.8,0
X$27 25 24 52 1 INV3D
* cell instance $28 r0 *1 853.2,0
X$28 24 23 52 1 INV3D
* cell instance $29 r0 *1 885.6,0
X$29 23 22 52 1 INV3D
* cell instance $30 r0 *1 918,0
X$30 22 21 52 1 INV3D
* cell instance $31 r0 *1 950.4,0
X$31 21 20 52 1 INV3D
* cell instance $32 r0 *1 982.8,0
X$32 20 19 52 1 INV3D
* cell instance $33 r0 *1 1015.2,0
X$33 19 18 52 1 INV3D
* cell instance $34 r0 *1 1047.6,0
X$34 18 17 52 1 INV3D
* cell instance $35 r0 *1 1080,0
X$35 17 16 52 1 INV3D
* cell instance $36 r0 *1 1112.4,0
X$36 16 15 52 1 INV3D
* cell instance $37 r0 *1 1144.8,0
X$37 15 14 52 1 INV3D
* cell instance $38 r0 *1 1177.2,0
X$38 14 13 52 1 INV3D
* cell instance $39 r0 *1 1209.6,0
X$39 13 12 52 1 INV3D
* cell instance $40 r0 *1 1242,0
X$40 12 11 52 1 INV3D
* cell instance $41 r0 *1 1274.4,0
X$41 11 10 52 1 INV3D
* cell instance $42 r0 *1 1306.8,0
X$42 10 9 52 1 INV3D
* cell instance $43 r0 *1 1339.2,0
X$43 9 8 52 1 INV3D
* cell instance $44 r0 *1 1371.6,0
X$44 8 7 52 1 INV3D
* cell instance $45 r0 *1 1404,0
X$45 7 6 52 1 INV3D
* cell instance $46 r0 *1 1436.4,0
X$46 6 5 52 1 INV3D
* cell instance $47 r0 *1 1468.8,0
X$47 5 4 52 1 INV3D
* cell instance $48 r0 *1 1501.2,0
X$48 4 3 52 1 INV3D
* cell instance $49 r0 *1 1533.6,0
X$49 3 2 52 1 INV3D
* cell instance $50 r0 *1 1566,0
X$50 2 51 52 1 INV3D
* cell instance $51 m90 *1 10.8,0
X$51 52 1 TAP2
* cell instance $52 m90 *1 1620,0
X$52 52 1 TAP2
.ENDS INV49D

* cell INV3
* pin 
* pin VSS
* pin 
* pin 
.SUBCKT INV3 1 2 3 4
* net 2 VSS
* cell instance $1 r0 *1 10.8,0
X$1 4 2 FILL2
* cell instance $2 r0 *1 21.6,0
X$2 4 2 FILL2
* cell instance $3 r0 *1 0,0
X$3 3 4 1 2 INV_X1
.ENDS INV3

* cell AND2_X1
* pin A
* pin B
* pin vdd
* pin Y
* pin vss
.SUBCKT AND2_X1 1 2 4 5 7
* net 1 A
* net 2 B
* net 4 vdd
* net 5 Y
* net 7 vss
* device instance $1 r0 *1 4,47.8 PMOS
M$1 3 1 4 4 PMOS L=1U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $2 r0 *1 8,47.8 PMOS
M$2 4 2 3 4 PMOS L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $3 r0 *1 12,47.8 PMOS
M$3 5 3 4 4 PMOS L=1U W=10.2U AS=15.3P AD=28.56P PS=13.2U PD=26U
* device instance $4 r0 *1 8.6,17.9 NMOS
M$4 6 1 7 7 NMOS L=1U W=3.4U AS=9.52P AD=2.04P PS=12.4U PD=4.6U
* device instance $5 r0 *1 10.8,17.9 NMOS
M$5 3 2 6 7 NMOS L=1U W=3.4U AS=2.04P AD=9.52P PS=4.6U PD=12.4U
* device instance $6 r0 *1 16.2,9.4 NMOS
M$6 5 3 7 7 NMOS L=1U W=3.4U AS=35.36P AD=9.52P PS=27.6U PD=12.4U
.ENDS AND2_X1

* cell TAP2
* pin vdd
* pin vss
.SUBCKT TAP2 1 2
* net 1 vdd
* net 2 vss
.ENDS TAP2

* cell INV3D
* pin A
* pin Y
* pin vdd
* pin gnd
.SUBCKT INV3D 1 2 3 4
* net 1 A
* net 2 Y
* net 3 vdd
* net 4 gnd
* device instance $1 r0 *1 4,47.8 PMOS
M$1 3 1 2 3 PMOS L=1U W=10.2U AS=409.34P AD=28.56P PS=85.4U PD=26U
* device instance $2 r0 *1 5.4,8.2 NMOS
M$2 2 1 4 4 NMOS L=1U W=3.4U AS=9.52P AD=306.89P PS=12.4U PD=77.2U
.ENDS INV3D

* cell INV_X1
* pin A
* pin vdd
* pin Y
* pin vss
.SUBCKT INV_X1 1 2 3 4
* net 1 A
* net 2 vdd
* net 3 Y
* net 4 vss
* device instance $1 r0 *1 4,47.8 PMOS
M$1 3 1 2 2 PMOS L=1U W=10.2U AS=28.56P AD=28.56P PS=26U PD=26U
* device instance $2 r0 *1 5.4,8.2 NMOS
M$2 3 1 4 4 NMOS L=1U W=3.4U AS=9.52P AD=9.52P PS=12.4U PD=12.4U
.ENDS INV_X1

* cell FILL2
* pin vdd
* pin vss
.SUBCKT FILL2 1 2
* net 1 vdd
* net 2 vss
* device instance $1 r0 *1 5.4,45 PMOS
M$1 1 2 1 1 PMOS L=3.2U W=15.8U AS=44.24P AD=44.24P PS=37.2U PD=37.2U
* device instance $2 r0 *1 5.4,13.05 NMOS
M$2 2 1 2 2 NMOS L=3.2U W=13.1U AS=36.68P AD=36.68P PS=31.8U PD=31.8U
.ENDS FILL2
